US08664401B2
Step D) Preparation of (2R)-4-[4-{2-fluoro-4-[(trans-4-hydroxycyclohexyl)methoxy]phenyl}-2-oxopyridin-1(2H)-yl]-N-hydroxy-2-methyl-2-(methylsulfonyl) butanamide
The title (0.16 g, 62.6%) compound was prepared from (2R)-4-[4-(2-fluoro-4-{[trans-4-(tetrahydro-2H-pyran-2-yloxy)cyclohexyl]methoxy}phenyl)-2-oxopyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide (0.35 g, 0.516 mmol) by a procedure analogous to that described for (2R)—N-hydroxy-4-[4-{4-[(cis-4-hydroxycyclohexyl)methoxy]phenyl}-2-oxopyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)butanamide, Example 8, Step F. LCMS m/z 511.7 (M+1) 1H NMR (400 MHz, DMSO-d6) δ ppm 0.94-1.25 (m, 4H) 1.57 (s, 3H) 1.60-1.75 (m, 1H) 1.83 (br. s., 4H) 2.08-2.24 (m, 1H) 2.35-2.48 (m, 1H) 3.11 (s, 3H) 3.28-3.44 (m, 1H) 3.65-3.80 (m, 1H) 3.84 (d, J=6.64 Hz, 2H) 4.01-4.22 (m, 1H) 6.47 (dt, J=7.18, 1.88 Hz, 1H) 6.53 (s, 1H) 6.87 (dd, J=8.79, 2.54 Hz, 1H) 6.94 (dd, J=13.38, 2.44 Hz, 1H) 7.51 (t, J=8.98 Hz, 1H) 7.71 (d, J=7.23 Hz, 1H) 9.24 (br. s., 1H) 11.15 (s, 1H)

reactant | (2R)-4-[4-(2-fluoro-4-{[trans-4-(tetrahydro-2H-pyran-2-yloxy)cyclohexyl]methoxy}phenyl)-2-oxopyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 0.516 mmol, 0.35 g | FC1=C(C=CC(=C1)OC[C@@H]1CC[C@H](CC1)OC1OCCCC1)C1=CC(N(C=C1)CC[C@](C(=O)NOC1OCCCC1)(S(=O)(=O)C)C)=O | C34H47FN2O9S
reactant | (2R)—N-hydroxy-4-[4-{4-[(cis-4-hydroxycyclohexyl)methoxy]phenyl}-2-oxopyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)butanamide | ONC([C@@](CCN1C(C=C(C=C1)C1=CC=C(C=C1)OC[C@@H]1CC[C@@H](CC1)O)=O)(S(=O)(=O)C)C)=O | C24H32N2O7S
product | (2R)-4-[4-{2-fluoro-4-[(trans-4-hydroxycyclohexyl)methoxy]phenyl}-2-oxopyridin-1(2H)-yl]-N-hydroxy-2-methyl-2-(methylsulfonyl) butanamide | 0.16 g, 62.6% | FC1=C(C=CC(=C1)OC[C@@H]1CC[C@H](CC1)O)C1=CC(N(C=C1)CC[C@](C(=O)NO)(S(=O)(=O)C)C)=O | C24H31FN2O7S
